US07268152B2
Synthesis of 2-(3-chloro-2-fluoro-5-trifluoromethylbenzyl)-4-(2-ethoxy-5-fluorophenyl)-1,1,1-trifluoro-4-methylpentan-2-ol
To a solution of the 34 mg (0.071 mmol) of 2-[3-(3-chloro-2-fluoro-5-trifluoromethylbenzyl)-4,4,4-trifluoro-3-hydroxy-1,1-dimethylbutyl]-4-fluorophenol in 0.5 mL of anhydrous DMF was added 78 mg (0.56 mmol) of potassium carbonate followed by 0.1 mL (1.25 mmol) of iodoethane. The mixture was stirred under argon for 2 hours and was then diluted with brine (4 mL) and extracted with three 5 mL portions of EtOAc. The combined organic layers were washed with three 5 mL portions of brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude material was dissolved in hexanes and chromatographed on silica gel eluting with hexanes and then EtOAc-hexanes (0.5:99.5) to afford 19.6 mg of the title compound as a oil.

reactant | 2-[3-(3-chloro-2-fluoro-5-trifluoromethylbenzyl)-4,4,4-trifluoro-3-hydroxy-1,1-dimethylbutyl]-4-fluorophenol | 0.071 mmol, 34 mg | ClC=1C(=C(CC(CC(C)(C)C2=C(C=CC(=C2)F)O)(C(F)(F)F)O)C=C(C1)C(F)(F)F)F | C20H17ClF8O2
reactant | potassium carbonate | 0.56 mmol, 78 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 1.25 mmol, 0.1 mL | ICC | C2H5I
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | brine | 4 mL | [Cl-].[Na+].O
product | 2-(3-chloro-2-fluoro-5-trifluoromethylbenzyl)-4-(2-ethoxy-5-fluorophenyl)-1,1,1-trifluoro-4-methylpentan-2-ol | 19.6 mg | ClC=1C(=C(CC(C(F)(F)F)(CC(C)(C)C2=C(C=CC(=C2)F)OCC)O)C=C(C1)C(F)(F)F)F | C22H21ClF8O2
